US06982348B2
N-((1RS,2SR)-2-(3-furanyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-3-phenylpropanamide
To a solution of (1RS,2SR)-2-amino-1-(3-furanyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (500 mg, 1.75 mmol) in ethyl acetate (20 ml) were added 3-phenylpropionyl chloride (390 ml, 2.63 mmol) and saturated aqueous sodium hydrogen carbonate (20 ml) and the mixture was stirred overnight-at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated-brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (650 mg, 89%).

reactant | (1RS,2SR)-2-amino-1-(3-furanyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 1.75 mmol, 500 mg | NC(C(O)C1=COC=C1)CC1=CC=C(C=C1)C(F)(F)F | C14H14F3NO2
reactant | 3-phenylpropionyl chloride | 2.63 mmol, 390 ml | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(3-furanyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-3-phenylpropanamide | 650 mg, 89% | O1C=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(CCC1=CC=CC=C1)=O)O | C23H22F3NO3
